US05153226
(S)-N-[2,6-bis(1-Methylethyl)phenyl]-4-(phenylmethoxy)-α-[(phenylmethyl)amino]benzenepropanamide
A solution of (S)-α-amino-4-(phenylmethoxy)-N-(2,4,6-trifluorophenyl)benzenepropanamide (1.0 g, 2.3 mmol) and benzaldehyde (0.25 g, 2.3 mmol) in toluene was heated under reflux with the azeotropic removal of water (1 hr). The resulting solution was cooled (25° C.), then methanol (30 mL) and an excess of sodium borohydride was added, and the resulting slurry was stirred (2h, 25° C.). To the resulting mixture was added 3% aqueous H2O2 (ca. 10 mL), and the resulting mixture was again stirred (1 hr, 25° C.). The resulting mixture was diluted with ethyl acetate (200 mL), washed with water (2×100 mL), washed with brine (1×100 mL), then dried (MgSO4) and concentrated. The resulting oil was triturated with ether:hexane (1:1) and the resulting precipitate was collected by filtration to yield 0.11 g (9.1%) of the title compound, mp 127°-129° C.

reactant | (S)-α-amino-4-(phenylmethoxy)-N-(2,4,6-trifluorophenyl)benzenepropanamide | 2.3 mmol, 1.0 g | N[C@H](C(=O)NC1=C(C=C(C=C1F)F)F)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C22H19F3N2O2
reactant | benzaldehyde | 2.3 mmol, 0.25 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | H2O2 | ca. 10 mL | OO | H2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 30 mL | CO | CH4O
solvent | water | O | H2O
product | (S)-N-[2,6-bis(1-Methylethyl)phenyl]-4-(phenylmethoxy)-α-[(phenylmethyl)amino]benzenepropanamide | 0.11 g, 9.1% | CC(C)C1=C(C(=CC=C1)C(C)C)NC([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)NCC1=CC=CC=C1)=O | C35H40N2O2
